US08648069B2
1-(5-Bromo-3-methyl-1H-indazol-1-yl)ethanone
5-Bromo-3-methyl-1H-indazole (838 mg, 3.97 mmol) was dissolved in methylene chloride (15 mL) and diisopropylethylamine (0.7 mL). Acetic anhydride (500 μL, 5.29 mmol) was added and the mixture was stirred at ambient temperature overnight. The mixture was diluted with ethyl acetate, washed with 1 N sodium hydroxide followed by 1 N hydrochloric acid and then brine. The organic layer was dried over sodium sulfate and the solvent was removed under reduced pressure to afford the title compound. MS (ESI+) m/z 252.7 (M+H)+.

reactant | 5-Bromo-3-methyl-1H-indazole | 3.97 mmol, 838 mg | BrC=1C=C2C(=NNC2=CC1)C | C8H7BrN2
reactant | Acetic anhydride | 5.29 mmol, 500 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | diisopropylethylamine | 0.7 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(5-Bromo-3-methyl-1H-indazol-1-yl)ethanone | BrC=1C=C2C(=NN(C2=CC1)C(C)=O)C | C10H9BrN2O
